US07071175B1
A solution of 3-piperidin4-yl-propionic acid (4.79 g, 30.5 mmol), di-tert-butyl-dicarbonate (6.98 g, 32.0 mmol) and NaHCO3 (2.69 g, 32.0 mmol) in THF/water (1:1, 50 mL) were stirred at room temperature for 22 h. Another portion of di-tert-butyl-dicarbonate (2.00 g, 9.10 mmol) was added together with a catalytic amount of DMAP, the resulting mixture was stirred for another four days. THF was removed under reduced pressure and the aqueous phase was extracted with CH2Cl2. The aqueous was then acidified to pH 2 with 1M HCl and the acid extracted with CH2Cl2. The combined organic extracts were washed with brine, dried and concentrated in vacuo to yield 4-(2-carboxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester as a white solid (6.36 g, 81%).

reactant | 3-piperidin4-yl-propionic acid | 30.5 mmol, 4.79 g | N1CCC(CC1)CCC(=O)O | C8H15NO2
reactant | di-tert-butyl-dicarbonate | 32.0 mmol, 6.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 32.0 mmol, 2.69 g | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl-dicarbonate | 9.10 mmol, 2.00 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF water | 50 mL | C1CCOC1.O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(2-carboxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 6.36 g, 81% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
